US05935966
DIETHYL 2-HYDRAZINOPYRIMIDINE-4,5-DICARBOXYLATE
The title compound was prepared as described in Example 18, but employing a solution of diethyl 2-chloropyrimidine-4,5-dicarboxylate (0.21 g, 0.83 mmol) and hydrazine (0.13 g, 4.2 mmol) in THF (10 mL) resulting in 96% yield (0.20 g); 1H NMR (CDCl3) δ 8.93 (bs, 1H), 8.34 (bs, 1H), 4.40 (m, 4H), 4.18 (bs, 2H), 1.35 (m, 6H).

reactant | diethyl 2-chloropyrimidine-4,5-dicarboxylate | 0.83 mmol, 0.21 g | ClC1=NC=C(C(=N1)C(=O)OCC)C(=O)OCC | C10H11ClN2O4
reactant | hydrazine | 4.2 mmol, 0.13 g | NN | H4N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | DIETHYL 2-HYDRAZINOPYRIMIDINE-4,5-DICARBOXYLATE | 96% yield | N(N)C1=NC=C(C(=N1)C(=O)OCC)C(=O)OCC | C10H14N4O4
